US08664401B2
Step C) 2-[3-fluoro-2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl) phenoxy]tetrahydro-2H-pyran
Potassium acetate (810 mg, 8.1 mmol) was added to a suspension of 2-(4-bromo-3-fluoro-2-methylphenoxy)tetrahydro-2H-pyran (1170 mg, 4.0 mmol) in p-dioxane (41 mL, 0.1M). After 10 minutes, bis(pinacolato)diborane (1230 mg, 4.9 mmol) and dichloro 1,1′-bis(diphenylphosphino)ferrocene palladium (II) (96 mg, 0.13 mmol) were added. The resulting suspension was heated to 100° C. 18 h. An additional 100 mg of catalyst was added. After another 24 h, an additional 100 mg of catalyst was added. After another 24 h (66 h total) the material was filtered through celite, concentrated and loaded onto a 120 g silica column (0-10% ethyl acetate in hexanes). The product was concentrated to yield 677 mg (50%) as a golden brown oil. Contains some bis(pinacolato)diborane impurity. Partial NMR 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.35 (s, 12H) 1.56-1.78 (m, 3H) 1.82-1.95 (m, 2H) 1.96-2.07 (m, 1H) 2.16 (d, J=2.15 Hz, 3H) 3.57-3.68 (m, 1H) 3.70-3.92 (m, 1H) 5.50 (t, J=2.93 Hz, 1H) 6.88 (d, J=8.39 Hz, 1H) 7.51 (t, J=7.71 Hz, 1H)

reactant | Potassium acetate | 8.1 mmol, 810 mg | C(C)(=O)[O-].[K+]
reactant | 2-(4-bromo-3-fluoro-2-methylphenoxy)tetrahydro-2H-pyran | 4.0 mmol, 1170 mg | BrC1=C(C(=C(OC2OCCCC2)C=C1)C)F | C12H14BrFO2
reactant | bis(pinacolato)diborane | 4.9 mmol, 1230 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | p-dioxane | 0.1M, 41 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro 1,1′-bis(diphenylphosphino)ferrocene palladium (II) | 0.13 mmol, 96 mg | [Pd+2].ClC1=C([C-](C=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)Cl.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-[3-fluoro-2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl) phenoxy]tetrahydro-2H-pyran | FC=1C(=C(OC2OCCCC2)C=CC1B1OC(C(O1)(C)C)(C)C)C | C18H26BFO4
